US07060844B2
A solution of methanesulfonic acid 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-ethyl ester (50 mg, 0.135 mmol) and N-(2-methoxyethyl)-N-propylamine (191 μl, 1.35 mmol) in dioxane (0.8 ml) was heated at 75° C. for 19 hours. The reaction was partitioned between EtOAc and water. The EtOAc layer was washed with water, brine, dried with anhydrous Na2SO4 and rotary evaporated to give brown oil. The brown oil was chromatographed with CHCl3 to give 3-(3-{2-[(2-methoxy-ethyl)-propyl-amino]-ethyl}-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one as a yellow-brown film (11 mg, 20%).

reactant | methanesulfonic acid 2-[3-(2-oxo-1,2-dihydro-indol-3-ylidene)-1,3-dihydro-isobenzofuran-1-yl]-ethyl ester | 0.135 mmol, 50 mg | O=C1NC2=CC=CC=C2C1=C1OC(C2=CC=CC=C12)CCOS(=O)(=O)C | C19H17NO5S
reactant | N-(2-methoxyethyl)-N-propylamine | 1.35 mmol, 191 μl | COCCNCCC | C6H15NO
reactant | dioxane | 0.8 ml | O1CCOCC1 | C4H8O2
product | 3-(3-{2-[(2-methoxy-ethyl)-propyl-amino]-ethyl}-3H-isobenzofuran-1-ylidene)-1,3-dihydro-indol-2-one | COCCN(CCC1OC(C2=CC=CC=C12)=C1C(NC2=CC=CC=C12)=O)CCC | C24H28N2O3
